US07592347B2
5-(4-Bromophenyl)-2-methyl-oxazole (D38)
Trifluoromethanesulfonic acid (6.6 ml) was added to a flask containing iodobenzene diacetate (12.2 g) and MeCN (200 ml) at rt. After 25 min. a solution of 4′-bromoacetophenone (5 g) in MeCN (50 ml) was added and the resultant mixture heated at reflux for 6 h. The reaction was allowed to cool to rt before the solvent was evaporated and the residue partitioned between saturated aqueous Na2CO3 (150 ml) and EtOAc (150 ml). The organic phase was washed with saturated brine (150 ml), dried (MgSO4) and evaporated to give an orange solid. The crude product was purified by column chromatography (silica gel, 50% EtOAc in hexane) to give the title compound (D38) as a pale yellow solid (3.5 g). LCMS electrospray (+ve) 239 (MH+).

reactant | Trifluoromethanesulfonic acid | 6.6 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | iodobenzene diacetate | 12.2 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | 4′-bromoacetophenone | 5 g | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
reactant | MeCN | 50 ml | CC#N | C2H3N
reactant | MeCN | 200 ml | CC#N | C2H3N
product | 5-(4-Bromophenyl)-2-methyl-oxazole | BrC1=CC=C(C=C1)C1=CN=C(O1)C | C10H8BrNO
